US09061999B2
(E)-N-(2-chloro-5-(2-(piperidin-1-yl)ethoxy)phenyl)-2-methyl-3-phenylacrylamide (100 mg, 0.2 mmol, 1 eq.) was placed in chlorobenzene (500 μL), in the presence of aluminium trichloride (201 mg, 1.5 mmol, 6 eq.). The reaction mixture was heated at 125° C. and stirred for 2 hours. After cooling down to room temperature, it was diluted with a water and ice mixture and extracted with ethyl acetate. The organic phase was dried over MgSO4, filtered and concentrated under reduced pressure. The resulting residue was purified by column chromatography on silica gel to afford 8-chloro-3-methyl-5-(2-(piperidin-1-yl)ethoxy)quinolin-2(1H)-one (25 mg, 31%).

reactant | (E)-N-(2-chloro-5-(2-(piperidin-1-yl)ethoxy)phenyl)-2-methyl-3-phenylacrylamide | 0.2 mmol, 100 mg, 1 eq. | ClC1=C(C=C(C=C1)OCCN1CCCCC1)NC(\C(=C\C1=CC=CC=C1)\C)=O | C23H27ClN2O2
reactant | aluminium trichloride | 1.5 mmol, 201 mg, 6 eq. | [Cl-].[Cl-].[Cl-].[Al+3]
solvent | chlorobenzene | 500 μL | ClC1=CC=CC=C1 | C6H5Cl
solvent | water | O | H2O
product | 8-chloro-3-methyl-5-(2-(piperidin-1-yl)ethoxy)quinolin-2(1H)-one | 25 mg, 31% | ClC=1C=CC(=C2C=C(C(NC12)=O)C)OCCN1CCCCC1 | C17H21ClN2O2
